US07897766B2
Thieno[3,2-b]thiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and thieno[3,2-b]thiophene-2-carboxylic acid according to methods A and C. 1H NMR (300 MHz, methanol-d4) δ ppm 2.08-2.34 (m, 5H), 2.51 (s, 2H), 3.42-3.64 (m, 4H), 3.88 (d, J=12.5 Hz, 2H), 4.33 (s, 1H), 7.37 (d, J=5.1 Hz, 1H), 7.71 (d, J=5.1 Hz, 1H), 8.12 (s, 1H). MS (DCI/NH3) m/z 319.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | thieno[3,2-b]thiophene-2-carboxylic acid | S1C2=C(C=C1C(=O)O)SC=C2 | C7H4O2S2
reactant | NH3 | N | H3N
product | Thieno[3,2-b]thiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C2=CC3=C(S2)C=CS3 | InChI=1S/C16H18N2OS2.ClH/c19-16(14-5-13-12(21-14)1-2-20-13)17-15-10-3-9-4-11(15)8-18(6-9)7-10;/h1-2,5,9-11,15H,3-4,6-8H2,(H,17,19);1H/t9?,10?,11?,15-;
